US09376422B2
Step 2: Synthesis of methyl 5-chloro-2-methyl-3-(methyl((tetrahydro-2H-pyran-4-yl)methyl)amino)benzoate
To a stirred solution of methyl 5-chloro-2-methyl-3-(((tetrahydro-2H-pyran-4-yl)methyl)amino)benzoate (0.80 g, 2.71 mmol) in acetonitrile (20 mL), cesium carbonate (1.75 g, 5.42 mmol) and methyl iodide (1.93 g, 13.6 mmol) were added. The resulting reaction mass was heated at 80° C. for 8 h. On completion, the mixture was cooled to room temperature and filtered. The residue was washed with ethyl acetate and the filtrate was concentrated to give crude material which was purified by column chromatography to give the title compound (0.70 g, 84%).

reactant | methyl 5-chloro-2-methyl-3-(((tetrahydro-2H-pyran-4-yl)methyl)amino)benzoate | 2.71 mmol, 0.80 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NCC1CCOCC1 | C15H20ClNO3
reactant | cesium carbonate | 5.42 mmol, 1.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 13.6 mmol, 1.93 g | CI | CH3I
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | methyl 5-chloro-2-methyl-3-(methyl((tetrahydro-2H-pyran-4-yl)methyl)amino)benzoate | 0.70 g, 84% | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(CC1CCOCC1)C | C16H22ClNO3
